US03962435
Preparation of 3-methoxy-4,5-methylenedioxy-α-methoxymethylcinnamonitrile
3.8 g. of sodium were dissolved in 120 ml. of methanol under reflux. 56 g. of methoxypropionitrile and 60 g. of 3-methoxy-4,5-methylenedioxybenzaldehyde were then added and refluxed in the methanol mixture for 5 hours. Upon chilling, 3-methoxy-4,5-methylenedioxy-α-methoxymethyl-cinnamonitrile crystallized in needles of m.p. = 115°, in a yield of 68 g. = 83 percent. A sample of analysis was recrystallized from methanol, m.p. 115.5°-116.5°.

reactant | sodium | [Na] | Na
reactant | methoxypropionitrile | COC(C#N)C | C4H7NO
reactant | 3-methoxy-4,5-methylenedioxybenzaldehyde | COC=1C=C(C=O)C=C2C1OCO2 | C9H8O4
reactant | methanol | CO | CH4O
product | 3-methoxy-4,5-methylenedioxy-α-methoxymethylcinnamonitrile | COC=1C=C(C=C(C#N)COC)C=C2C1OCO2 | C13H13NO4
